US07220862B2
[1-(2-Trimethylsilanyl-ethanesulfonyl)-1H-indol-5-yl]-methanol
A solution of diisobutylaluminum hydride (82.9 mL, 1M in toluene, 82.9 mmol) was added slowly at 0° C. to the solution of 1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indole-5-carboxylic acid ethyl ester (8.81 g, 25.9 mmol) in toluene (200 mL). After it was stirred at 0° C. for 45 min, the reaction was quenched by the addition of methanol (26 mL), pulverized sodium sulfate decahydrate (194 g) and celite (26 mL). The mixture was warmed up to room temperature in 1 h and filtered through a pad of celite. Solvents were removed in vacuo to afford the title compound as a very viscous liquid, which solidified upon cooling. A white solid (8.08 g, 100% yield). 1H-NMR (CDCl3, 500 MHz) δ 7.87 (d, J=8.5 Hz, 1H), 7.62 (s, 1H), 7.44 (d, J=3.7 Hz, 1H), 7.35 (dd, J=8.6, 1.5 Hz, 1H), 6.66 (d, J=3.7 Hz, 1H), 4.79 (s, 2H), 3.18–3.14 (m, 2H), 1.73 (s, 1H), 0.85–0.82 (m, 2H), −0.06 (s, 9H). Mass spec. 312.14 (MH)+.

reactant | diisobutylaluminum hydride | 82.9 mmol, 1M, 82.9 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indole-5-carboxylic acid ethyl ester | 25.9 mmol, 8.81 g | C(C)OC(=O)C=1C=C2C=CN(C2=CC1)S(=O)(=O)CC[Si](C)(C)C | C16H23NO4SSi
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | [1-(2-Trimethylsilanyl-ethanesulfonyl)-1H-indol-5-yl]-methanol | C[Si](CCS(=O)(=O)N1C=CC2=CC(=CC=C12)CO)(C)C | C14H21NO3SSi
